US07419967B2
A mixture of tert-butyl (1S,2R)-1-benzyl-3-[(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate (100 mg, 0.273 mmol), 4-methoxyphenylsulphonyl chloride (57 mg, 0.273 mmol), and diisoproylethylamine (0.0476 mL, 0.273 mmol) in anhydrous tetrahydrofuran (2 mL) was stirred under Argon for 16 hours at ambient temperature. A catalytic quantity of 4-dimethylaminopyridine (˜1 mg) was added and the reaction was heated at reflux for approximately two hours. After cooling, the reaction was evaporated in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with aqueous potassium carbonate (5% w/v), aqueous hydrochloric acid (1N) and brine. The organic layer was then dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was purified on a preparative TLC plate (20×20 cm, 500 NM) eluting with 95:5 methylene chloride:methanol. The product band was removed, eluted with 4:1 methylene chloride:methanol, filtered, and evaporated in vacuo. The residue was purified again on a preparative TLC plate (20×20 cm, 500 μM) eluting with 95:5 methylene chloride:ethyl acetate. The product band was removed, eluted with 4:1 methylene chloride:methanol, filtered, and evaporated in vacuo to provide tert-butyl (1S,2R)-1-benzyl-3-{(1-ethylpropoxy)[(4-methoxyphenyl)sulfonyl]amino}-2-hydroxypropylcarbamate (103 mg, 70%) as a foam. H1-NMR (chloroform-D3): 0.95 (m, 6H), 1.38 (s, 9H), 1.64 (m, 4H), 3.01 (m, 5H), 3.83 (m, 2H), 3.93 (s, 3H), 4.20 (m, 1H), 4.61 (m, 1H), 7.03 (d, 2H), 7.29 (m, 5H), 7.80 (d, 2H). MS(ESI): 559(M+Na).

reactant | tert-butyl (1S,2R)-1-benzyl-3-[(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate | 0.273 mmol, 100 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNOC(CC)CC)O)NC(OC(C)(C)C)=O | C20H34N2O4
reactant | 4-methoxyphenylsulphonyl chloride | 0.273 mmol, 57 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | diisoproylethylamine | 0.273 mmol, 0.0476 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | ˜1 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (1S,2R)-1-benzyl-3-{(1-ethylpropoxy)[(4-methoxyphenyl)sulfonyl]amino}-2-hydroxypropylcarbamate | 103 mg, 70% | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)OC)OC(CC)CC)O)NC(OC(C)(C)C)=O | C27H40N2O7S
